US06261738B1
10 g (49.0 mmol) of 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone are dissolved in 100 ml of ethanol. To the solution are added 4.1 g (58.8 mmol) of hydroxylammonium chloride and 11.9 ml (147 mmol) of pyridine. The reaction mixture is refluxed for 4 hours, and the solvent is distilled off by a rotary evaporator. The residue is poured into 50 ml of water, and extracted with 100 ml and 50 ml of ethyl acetate. The organic phase is washed with potassium hydrogen sulfate aqueous solution, water, and brine, dried over MgSO4, and concentrated. The residue is purified by chromatography with methylene chloride, yielding 5.3 g of 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone oxime as a white solid with a melting point of 62-80° C. The structure is confirmed by the 1H-NMR spectrum (CDCl3). δ[ppm]: 3.84 (s, 3H), 6.93(E)/6.99(Z) (d, 2H), 7.45(E)/7.55(Z) (d, 2H), 8.78 (br s, 1H). The signals are tentatively assigned to the E- and Z-conformations. The spectrum indicates the compound is a mixture of E- and Z-isomers. The ratio of the mixture is estimated to be E:Z=1:1.

reactant | 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone | 49.0 mmol, 10 g | FC(C(=O)C1=CC=C(C=C1)OC)(F)F | C9H7F3O2
reactant | hydroxylammonium chloride | 58.8 mmol, 4.1 g | [Cl-].O[NH3+]
reactant | pyridine | 147 mmol, 11.9 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 2,2,2-trifluoro-1-(4-methoxyphenyl)-ethanone oxime | 5.3 g | FC(C(=NO)C1=CC=C(C=C1)OC)(F)F | C9H8F3NO2
